US07186749B2
A mixture of 2-(6-methoxy-2-naphthyl)-5-phenyl-1H-pyrrole (0.72 g, 2.4 mmol), prepared in the previous step, and pyridine hydrochloride (7.2 g) was heated at 200° C. under a nitrogen atmosphere for 1 hour. The mixture was cooled to ambient temperature and the solids were dissolved in 1N HCl (150 mL). The mixture was extracted three times with methylene chloride. The combined extracts were washed one time with water, dried (MgSO4), filtered and the solvent removed under reduced pressure to give 6-(5-phenyl-1H-pyrrol-2-yl)-2-naphthol as a grayish solid (0.65 g, 95%), mp 209.5–210.5 Elemental Analysis for C20H15NO Calc'd: C, 84.19; H, 5.30; N, 4.91. Found: C, 83.38; H, 5.38; N, 4.67.

reactant | 2-(6-methoxy-2-naphthyl)-5-phenyl-1H-pyrrole | 2.4 mmol, 0.72 g | COC=1C=C2C=CC(=CC2=CC1)C=1NC(=CC1)C1=CC=CC=C1 | C21H17NO
reactant | pyridine hydrochloride | 7.2 g | Cl.N1=CC=CC=C1
solvent | HCl | 1N, 150 mL | Cl | ClH
product | 6-(5-phenyl-1H-pyrrol-2-yl)-2-naphthol | 0.65 g, 95% | C1(=CC=CC=C1)C1=CC=C(N1)C=1C=C2C=CC(=CC2=CC1)O | C20H15NO
